Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / adhesive tape
 
Attending: ___.
 
Chief Complaint:
confusion, memory loss, odd behavior
 
Major Surgical or Invasive Procedure:
LP (___)

 
History of Present Illness:
Ms. ___ is a ___ woman with depression and anxiety 
who presents with bizarre behavior.  History is limited by 
patient as she responds to most questions by saying "I don't 
know" "I think so" "Im not sure."  Per ED report and psych note:

"Patient states that she woke up this morning and drove to work,
stating after each questions in short responses "I think so?".
She reported that she is unsure of why someone called ___ to
bring her to the hospital. She reported that she has been 
feeling
"not like myself, I definitely feel off" and endorsed headache,
lightheadedness, generalized "pressure" in her head, along with
blurry vision. 

Of note, patient recently presented to ___ ED on ___ given
concern for worsening anxiety, depression in setting of multiple
psychosocial stressors including recent break up with an abusive
ex boyfriend (who was a college) at her old school. Her 
boyfriend
was a colleague at work and patient subsequently switched
positions and decreased administrative burden given worsening
depression and anxiety working with her ex. When she presented 
on
___ patient was discharged home with plan to follow up with
___. When asking patient whether she 
followed
up she responded "I don't think so, I actually don't remember, I
saw some doctor". She reports not being entirely sure whether 
she
has been hopeless/helpless, anxious, or having racing thoughts.
She denies any suicidal thoughts or any auditory/visual
hallucinations at this time though unsure of whether she was
having these thoughts prior to presentation.  
 
Collateral- 
Patient's sister additionally accompanied patient in the ED. She
expressed concern that patient's depression has been worsening
gradually over the past 1.5 months. Patient has been more
isolative, began to behave in a more suspicious manner while at
work and believes that colleagues are purposefully working
against her/sabotaging her. She made statements that she thinks
her colleagues bumped into her car or stole her keys. ___ also
noted that pt's home was messier than usual which is unusual;
piles of dishes unwashed, home looked messier although patient 
is
usually an organized person. 

More recently for the past week, patient has been increasingly
isolative. Patient called her sister on ___. and appeared more
frantic, stating that she was not feeling like herself, feeling
lightheaded and having some difficulty getting out of bed. She
requested that her sister drop off her daughter at work. Patient
additionally made statement to her ___, addressing ___
husband, "tell your husband I did what he asked me to do...I
crossed the street like he told me to". She additionally 
reported
feeling that "people are listening". 

Patient's Daughter: 
Reported that she found out yesterday that patient has not been
eating for the last ___ days. Per daughter, they usually eat
separately so she is unsure of whether her mother has been 
eating
regularly. She also noted that her mother has not been a able to
sleep at night and frequently walks around at night. Per 
patient,
mother has not been herself for the past 1.5 months but aside
from making paranoid comments at work, does not remember any
other bizarre paranoid statements." 
 
Past Medical History:
+ HPV with abnormal PAP
 
Social History:
Denies tobacco or alcohol/drug use

Patient currently lives in ___, is currently single (after 
a recent break up 2 months prior with a work colleague). She has 
a ___ degree in ___, currently working as a ___ 
___. 
Patient's ex husband currently lives in ___ (she was 
living in ___ prior to coming to ___ ___ years ago). Her ex 
husband was abusive  (physically towards their son, emotionally 
and sexually towards patient). Most recent relationship was also 
abusive (emotionally). Patient has 3 children (1 daughter, 2 
sons). One son ___ years old) has cerebral palsy, her oldest son 
is ___ years old, and her daughter is ___ years old. 
 
Patient is currently struggling at work and feels that her
current employers do not want pt to work there anymore, are
sabotaging her career. 

 
Family History:
Patient's mother has hx of depression and anxiety, no other
family hx of psychiatric illness. No hx of substance abuse. 

 
Physical Exam:
INITIAL PSYCH EXAM IN ED
Vitals: T98.7  HR  110   BP  132/81  RR  20  O2 sat. 96% RA  
Neurological:  
Non-focal, although she loses track of the exam's tasks at times 
often forgetting what she is supposed to be doing.   
*Attention (digit span, MOYB): seems distractable; answers "I 
don't know" with most asks, Unable to report ___ forward and 
unable to report days of week forwards. Able to start counting 
to 10 but stopped midway and asked for help. 
*Orientation: can say first name but not last name, ___ 
date or location (answers "I don't know" even with prompting)
*Memory: Cannot register 3 words. When played music from a 
favorite artist, she says she "may" have heard it before. When 
shown pictures of two singers and asked if it is that person, to 
the first she says "no" correctly, then to the image of the 
singer says "maybe". 
*Fund of knowledge:  Cannot name news items
*Speech: Sparse, mostly says "I don't know", little to no 
spontaneous speech
*Language: fluent when she speaks. Cannot come up with any words 
starting with "B"
Executive Function/Visuospatial/Limbic Function: Does Luria 
sequence motions with a lot of effort and repetition but cannot 
learn the sequence. Able to do complex constructions with 
fingers. Unable to copy alternating sequence of triangles and 
squares. When told the "___ story, she expresses a 
slight smile, but cannot explain. We put on a song by one of her 
favorite artists; she has a slight smile, at times able to say 
some of the ___. 
   
Mental Status:
*Appearance/Behavior:  mildly disheveled, neatly dressed. she 
appears somewhat afraid/suspicious but is calm. Very little 
spontaneous movement, sits still for majority of interview, legs 
crossed with religious text lying on her bed. 
*Mood and Affect: "I feel tired"; affect is blunted, wary
*Thought process:  answers "I don't know" to pretty much 
anything. When asked things like "did you go to work today" says 
"sure, probably" unconvincingly (as if she just recognizes that 
one would go to work on a ___ but is not truly sure).  
*Thought Content: No psychotic content expressed, though family 
relates statements , no thoughts/plans/intent to harm or kill 
self
*Judgment and Insight:  impaired

MEDICINE EXAM HOSPITAL DAY ONE
VITALS: last 24-hour vitals were reviewed.
CONSTITUTIONAL: NAD
EYE: sclerae anicteric, EOMI
ENT: audition grossly intact, MMM, OP clear 
LYMPHATIC: No LAD
CARDIAC: RRR, no M/R/G, JVP not elevated, no edema
PULM: normal effort of breathing, LCAB
GI: soft, NT, ND, NABS
GU: no CVA tenderness, suprapubic region soft and nontender
MSK: no visible joint effusions or acute deformities.
DERM: no visible rash. No jaundice.

NEURO: AAOx3 (with some thought prior to naming the hospital 
correctly). She is able to do months of the year backward, read 
to be from a book, tell me what she had for breakfast, do 
arithmetic, and other basic cognitive tasks. She thinks 
pointedly about each of these, as though remembering how to 
answer my questions from distant past knowledge that she has to 
work hard to recall.
CN II-XII intact and symmetric. 
Normal gait. 
No tremors or hyperreflexia. 

PSYCH: 
Appearance - well-maintained  
Affect - marked by a warm optimism that seems inappropriate to 
her situation. 
Thought content - no overt hallucinations. No bizarre delusions. 
Seems somewhat paranoid about MRI contrast, which she cannot 
offer a logical explanation for.
Thought process - Each thought seems to float to the surface in 
relative isolation, without much flow of logical thought process 
to connect them. 
Insight - Poor. She projects a sort of childlike naiivity about 
her current situation.  

   DISCHARGE EXAM
VS: Temp: 98.1 PO BP: 155/93 L Lying HR: 98 RR: 18 O2
sat: 98% O2 delivery: Ra 

GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: + BS, soft, NT, ND, no R/G
GU: No suprapubic fullness or tenderness to palpation
MSK: Lower ext warm without edema
SKIN: No rashes or ulcerations noted
NEURO: AOx3, CN II-XII intact, ___ strength all extremities,
sensation grossly intact to light touch throughout, gait nl, no
meningismus
PSYCH: withdrawn but makes eye contact and answers questions
appropriately

 
Pertinent Results:
******************
ADMISSION LABS
******************
___ 01:36PM BLOOD WBC-10.5* RBC-4.56 Hgb-11.5 Hct-36.6 
MCV-80* MCH-25.2* MCHC-31.4* RDW-14.9 RDWSD-43.3 Plt ___
___ 01:36PM BLOOD Neuts-78.8* Lymphs-12.2* Monos-8.1 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-8.25* AbsLymp-1.28 
AbsMono-0.85* AbsEos-0.03* AbsBaso-0.03
___ 01:36PM BLOOD Glucose-123* UreaN-24* Creat-0.7 Na-142 
K-3.8 Cl-105 HCO3-21* AnGap-16
___ 01:36PM BLOOD ALT-12 AST-14 AlkPhos-67 TotBili-0.4
___ 01:36PM BLOOD Albumin-4.7 Calcium-10.0 Phos-2.4* Mg-2.0
___ 01:36PM BLOOD VitB12-1516* Folate->20
___ 01:36PM BLOOD TSH-0.66
___ 01:36PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:55PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-300* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 
Leuks-MOD*
___ 06:55PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG marijua-NEG

B12 1516, folate >20
TSH 0.66
RF 10
___ 1:1280 x 2, diffuse pattern
Anti-dsDNA: negative
Lupus AC: neg
Anti-cardiolipin: pending
___: neg
Anti-RNP: neg
Anti-TPO: 181 (ULN 35)
C3 125, C4 26
Anti-trep Ab: neg
HIV: neg
Sjogren's Ab: pending
Stox: neg
Utox: neg
Autoimmune encephalitis panel: pending

UA (___): neg bld, neg nit, mod ___, 2 RBC, 7 WBC, no bact
UCx (___): mixed flora

******************
DISCHARGE LABS
******************
___ 05:55AM BLOOD WBC-7.5 RBC-4.84 Hgb-12.0 Hct-38.9 
MCV-80* MCH-24.8* MCHC-30.8* RDW-15.0 RDWSD-43.6 Plt ___
___ 05:55AM BLOOD Glucose-84 UreaN-14 Creat-0.6 Na-142 
K-4.2 Cl-103 HCO3-26 AnGap-13

IMAGING:
========
MRI brain w/w/o cont (___):
1. Suboptimal exam due to motion artifact. 
2. No acute intracranial abnormality. 
  
EEG (___):
This telemetry captured no pushbutton activations. It showed a 
normal background in wakefulness and in sleep. There were no
focal abnormalities or epileptiform features. 

NCHCT (___):
No acute intracranial process.

 
Brief Hospital Course:
___ w/hx of emotional/sexual trauma but not other significant 
PMH presenting with memory loss, confusion, paranoid delusions, 
negative psychotic symptoms vs dissociative symptoms, 
progressive over months, concerning for primary psychiatric 
disease vs autoimmune encephalitis.

# Acute encephalopathy: 
# Psychotic vs dissociative symptoms: 
Patient presents with months of memory loss, confusion, and what 
sound from family collateral like paranoid delusions (reported 
she had a "chip" in her shoulder per brother). Initially 
amnestic vs dissociative in ED, then seemingly indifferent to 
deficits, catatonic-appearing initially and now intermittently 
more paranoid. Continue to suspect primary psychiatric condition 
(? depression with psychotic features vs psychotic disorder) 
given extensive negative medical workup involving consultations 
from neurology and rheumatology including negative MRI and EEG. 
Serum autoimmune encephalitis panel pending but also thought to 
be less likely given bland LP CSF analysis. Other notable workup 
included: no obvious toxic-metabolic issue on basic labs, TSH 
normal, B12 normal, Trep Ab neg, HIV neg, Stox/Utox negative. 
Patient now medically cleared for ongoing treatment at an 
inpatient psychiatric facility, which she will require due to 
inability to care for herself at home. Patient was previously 
fully functional.  

# Positive ___ at high-titer: 
Seen by rheumatology. SLE thought unlikely, but would benefit 
from surveillance as outpatient. Rheumatology f/u scheduled for 
___.

# Flu prophylaxis:
Patient was on medical floor with multiple cases of influenza. 
Patient with negative flu swab. Per discussion with Infectious 
control, decided to prophylax all patients on the medical floor. 
Will need 9 additional days of oseltamivir 75mg day, last day 
___. 

** TRANSITIONAL ** 
[ ] Serum auto-immune encephalopathy panel pending on discharge, 
as noted above, thought highly unlikely.
[ ] rheum f/u for ___ surveillance

> 30 mins spent with discharge planning
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  LORazepam 0.25 mg PO TID  
2.  OSELTAMivir 75 mg PO DAILY Duration: 10 Days  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis
- Acute encephalopathy
- Psychotic symptoms
- Depression and anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Miss ___,

You were admitted due to confusion. You had an extensive work up 
that did not uncover and underlying medical causes (such as a 
brain infection). You are now being transferred to a inpatient 
psychiatry unit for ongoing care. 

We wish you the best. 

Sincerely,
Your ___ team
 
Followup Instructions:
___